US06051712
In an analogous manner to that described in Example 22(b), by an elimination reaction from 1-benzyl-4-[4-(2-hydroxy-ethyl)-phenyl]-piperidin-4-ol using p-toluenesulphonic acid there was obtained 2-[4-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-ethanol as a colourless oil; MS: 293 (M)+.

reactant | 1-benzyl-4-[4-(2-hydroxy-ethyl)-phenyl]-piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)CCO | C20H25NO2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-[4-(1-benzyl-1,2,3,6-tetrahydro-pyridin-4-yl)-phenyl]-ethanol | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC=C(C=C1)CCO | C20H23NO
